US07598423B2
Synthesis of 3-(4-hydroxymethyl-benzyl)-benzoic acid methyl ester
Tetrakis(triphenylphosphine)palladium(0) (550 mg, 0.476 mmol) is added to a mixture of 3-bromomethyl-benzoic acid methyl ester (3.0 g, 13.09 mmol) and 4-(hydroxymethyl)-phenylboronic acid (2.99 g, 19.68 mmol) in a mixture of toluene (125 mL) and 2M sodium carbonate (62 mL). The mixture was degassed, placed under nitrogen and heated at 85° C. for 16 hours. After cooling to room temperature, the mixture is concentrated in vacuo and the black residue is partitioned between saturated sodium bicarbonate and dichloromethane. After the layers are separated, the aqueous layer is extracted two more times with dichloromethane. The combined organic layers are washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by flash chromatography (20% tetrahydrofuran in hexanes) to give 2.71 g of the title compound as a yellow oil: MS (m/z): 239 (M−OH); 1H NMR (CDCl3) δ 7.92 (m, 2H), 7.42-7.36 (m, 2H), 7.34-7.29 (m, 2H), 7.21 (d, J=8.0 Hz, 2H), 4.69 (s, 2H), 4.05 (s, 2H), 3.93 (s, 3H), 1.79 (s, 1H).

reactant | 3-bromomethyl-benzoic acid methyl ester | 13.09 mmol, 3.0 g | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
reactant | 4-(hydroxymethyl)-phenylboronic acid | 19.68 mmol, 2.99 g | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
solvent | toluene | 125 mL | C1(=CC=CC=C1)C | C7H8
solvent | sodium carbonate | 2M, 62 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.476 mmol, 550 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-hydroxymethyl-benzyl)-benzoic acid methyl ester | 2.71 g | COC(C1=CC(=CC=C1)CC1=CC=C(C=C1)CO)=O | C16H16O3
